US04879292
To a suspension of sodium hydride (20 mg, 0.5 mmol; 60% in oil) in dimethylformamide (1 ml), a solution of 1-methyl-2-[4-(3,5-difluorophenoxy)phenoxy]ethanol (140 mg, 0.5 mmol) in dimethylformamide (1 ml) was dropwise added with stirring, and stirring was continued at room temperature until the generation of hydrogen gas ceased. 2-Fluoropyridine (97 mg, 1.0 mmol) was dropwise added thereto, and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water (40 ml) and extracted with toluene (20 ml) three times. The toluene layer was dried over anhydrous magnesium sulfate, and the solvent was removed by evaporation. The residue was purified by silica gel column chromatography to give 2-{1-methyl-2-[4-(3,5-difluorophenoxy)phenoxy]ethoxy}pyridine (129 mg) as pale yellow liquid. nD19.0 1.5602.

reactant | sodium hydride | 0.5 mmol, 20 mg | [H-].[Na+]
reactant | 1-methyl-2-[4-(3,5-difluorophenoxy)phenoxy]ethanol | 0.5 mmol, 140 mg | CC(COC1=CC=C(C=C1)OC1=CC(=CC(=C1)F)F)O | C15H14F2O3
reactant | hydrogen | [H][H] | H2
reactant | 2-Fluoropyridine | 1.0 mmol, 97 mg | FC1=NC=CC=C1 | C5H4FN
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | water | 40 ml | O | H2O
product | 2-{1-methyl-2-[4-(3,5-difluorophenoxy)phenoxy]ethoxy}pyridine | 129 mg | CC(COC1=CC=C(C=C1)OC1=CC(=CC(=C1)F)F)OC1=NC=CC=C1 | C20H17F2NO3
